US07713990B2
3-(3,4-Dichloro-phenoxy)-8-thiazol-2-ylmethyl-8-aza-bicyclo[3.2.1]octane
to 2-[3-(3,4-Dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]-thioacetamide (0.5 g) in 5 ml of acetic acid was added 0.13 g of 50% chloroacetaldehyde in water. The reaction mixture was stirred at reflux overnight and cooled to room temperature and poured into 50 ml of water. The mixture was extracted twice with dichloromethane. The organic phase was dried with magnesium sulphate and evaporated to and oil. The product was isolated by column chromatography with dichloromethane/methanol (9:1) with 1% ammonia as eluent, the product fractions was evaporated to dryness. Yield 0.1 g (19%). Mp. 123-124° C.

reactant | 2-[3-(3,4-Dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]-thioacetamide | 0.5 g | ClC=1C=C(OC2CC3CCC(C2)N3CC(=S)N)C=CC1Cl | C15H18Cl2N2OS
reactant | chloroacetaldehyde | 0.13 g | ClCC=O | C2H3ClO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-(3,4-Dichloro-phenoxy)-8-thiazol-2-ylmethyl-8-aza-bicyclo[3.2.1]octane | ClC=1C=C(OC2CC3CCC(C2)N3CC=3SC=CN3)C=CC1Cl | C17H18Cl2N2OS
